US05606051
h) Allyl (5R,6S)-2-(5-Ethyl-1-methylpyrazol-3-yl)-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate
Allyl 2-{(3R,4S)-3-[(R)-1-t-Butyldimethylsilyloxyethyl]-4-[2-(5-ethyl-1-methylpyrazol-3-yl)-2-oxoethyl]azetidin-2-on-1-yl }-2-(tri-n-butylphosphoranylidene)acetate (1.94 g) in toluene (650 ml; 3 mgs/ml) was heated under reflux for a total of 7 h. T.l.c. analysis showed only a small amount of unreacted starting material. The solution was concentrated and purified by silica gel chromatography, eluting with 5% then 10% acetone/ethyl acetate. The product was obtained as an off white, crystalline solid. Trituration with ether, followed by filtration gave the title compound as a colourless crystalline solid, (356 mg; 30%); (Found: M+, 345.1689. C18H23N3O4 requires M 345.1689); nmax (CH2Cl2) 3603, 1774, 1716, 1599(w) and 1542(w) cm-1 ; dH (CDCl3) 1.28 (3H, t, J7.4 Hz), 1.36 (3H, d, J6.3 Hz), 1.85 (1H, d, J5.0 Hz), 2.61 (2H, d, J7.4 Hz), 3.19 (1H, dd, J2.8,6.7 Hz), 3.27 (1H, dd, J9.0,18.5 Hz), 3.59 (1H, dd, J9.8,18.5 Hz), 3.84 (3H, s), 4.24 (2H, m), 4.79 (2H, m), 5.27 (1H, m), 5.46 (1H, m), 6.01 (1H, m) and 7.02 (1H, s).

reactant | Allyl 2-{(3R,4S)-3-[(R)-1-t-Butyldimethylsilyloxyethyl]-4-[2-(5-ethyl-1-methylpyrazol-3-yl)-2-oxoethyl]azetidin-2-on-1-yl }-2-(tri-n-butylphosphoranylidene)acetate | 1.94 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1C(N([C@H]1CC(=O)C1=NN(C(=C1)CC)C)C(C(=O)OCC=C)=P(CCCC)(CCCC)CCCC)=O | C36H64N3O5PSi
solvent | toluene | 650 ml | C1(=CC=CC=C1)C | C7H8
product | Allyl (5R,6S)-2-(5-Ethyl-1-methylpyrazol-3-yl)-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate | C(C)C1=CC(=NN1C)C=1C[C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O | C18H23N3O4
